US05994378
A mixture of isopropyl 5-benzyloxy-2-nitrophenylacetate (4.2 g), ammonium chloride (0.42 g) and iron powder (4.2 g) in a mixed solvent of ethanol (20 ml) and water (10 ml) was stirred at 80° C. for 1.2 hours. After cooling, the reaction mixture was filtered and the filtrate was concentrated under reduced pressure. The residue was partitioned between water and ethyl acetate and the ethyl acetate layer was washed with brine, dried over magnesium sulfate and evaporated under reduced pressure to give isopropyl 2-amino-5-benzyloxyphenylacetate (3.9 g).

reactant | isopropyl 5-benzyloxy-2-nitrophenylacetate | 4.2 g | C(C1=CC=CC=C1)OC=1C=CC(=C(C1)CC(=O)OC(C)C)[N+](=O)[O-] | C18H19NO5
reactant | ammonium chloride | 0.42 g | [Cl-].[NH4+]
reactant | ethanol | 20 ml | C(C)O | C2H6O
catalyst | iron | 4.2 g | [Fe] | Fe
solvent | water | 10 ml | O | H2O
product | isopropyl 2-amino-5-benzyloxyphenylacetate | 3.9 g | NC1=C(C=C(C=C1)OCC1=CC=CC=C1)CC(=O)OC(C)C | C18H21NO3
